US08377913B2
(1R,4R,6R)-4-Isopropenyl-1-methyl-7-oxabicyclo[4.1.0]heptan-2-one
(R)-Carvone was epoxidized according to a modification of the method of E. Klein and G. Ohloff (Tetrahedron, 1963, 11, 1091-1099). Thus H2O2 (31%, 95 mL, 836 mmol, 1.3 equivalents) was added to a solution of (L)-carvone (100 mL, 640 mmol) in 650 mL of methanol at <5° C. After cooling to <0° C., 6N NaOH (10.5 mL, 63 mmol, 0.1 equivalents) was added. The reaction temperature was maintained at <5° C. After 5 hours, the reaction was diluted with 650 mL water, then quenched with 0.5 N KH2PO4 (250 mL) and 325 mL of 1 molal Na2SO3, keeping the temperature at <25° C. The reaction was extracted with 2×750 mL tert-butyl methyl ether. The combined tert-butyl methyl ether extracts were washed with 500 mL each of 20% aqueous NaCl then 10% then 25% to provide a clear organic layer which was dried over MgSO4, then filtered and concentrated, then chased with 100 mL of methanol. The resulting solution assayed (GC) at 101.3 g (96%) of the titled compound, which contained 5% of the minor isomer. 1H NMR (400 MHz, CDCl3) δ ppm 1.40 (s, 3 H) 1.70 (s, 3 H) 1.89 (ddd, J=14.75, 11.11, 1.17 Hz, 1 H) 2.02 (dd, J=17.56, 11.66 Hz, 1 H) 2.31 -2.41 (m, 1 H) 2.58 (ddd, J=17.56, 4.67, 1.37 Hz, 1 H) 2.65-2.76 (m, 1 H) 3.44 (dd, J=3.09, 1.03 Hz, 1 H) 4.70 (d, J=0.69 Hz, 1 H) 4.75-4.80 (m, 1 H).

reactant | (R)-Carvone | CC1=CCC(CC1=O)C(=C)C | C10H14O
reactant | H2O2 | 836 mmol, 95 mL, 1.3 equivalents | OO | H2O2
reactant | NaOH | 63 mmol, 6N, 10.5 mL, 0.1 equivalents | [OH-].[Na+]
solvent | methanol | 650 mL | CO | CH4O
solvent | water | 650 mL | O | H2O
product | (1R,4R,6R)-4-Isopropenyl-1-methyl-7-oxabicyclo[4.1.0]heptan-2-one | C(=C)(C)[C@H]1CC([C@@]2(O[C@@H]2C1)C)=O | C10H14O2
